US08003649B2
(Diethylamino)sulfur trifluoride (0.059 mL, 0.45 mmol) was added dropwise to a stirred solution of 2-[[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl)methoxy]ethanol (104 mg, 0.3 mmol) in DCM (3 mL) at −70° C. The solution was allowed to warm to ambient temperature and stir for 18 hours. The solution was diluted with DCM and washed with 2M aqueous K2CO3. The organic phase was dried over MgSO4 and evaporated. The crude product was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 6-[4-[(2-fluoroethoxy)methyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (22.0 mg, 21%) as a white solid.

reactant | (Diethylamino)sulfur trifluoride | 0.45 mmol, 0.059 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-[[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl)methoxy]ethanol | 0.3 mmol, 104 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)COCCO)(F)F | C14H18F3N5O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-[(2-fluoroethoxy)methyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 22.0 mg, 21% | FCCOCC1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C14H17F4N5O
